* Z:\mnt\design.r\spice\examples\1647-2.asc
C1 0 N003 10n Rser=1K
R1 N002 N003 10
R2 IN N001 20m
M§Q1 N001 N002 OUT1 OUT1 IRF7413A
C2 OUT1 0 30µ
V1 IN 0 PWL(0 0 2.7m 0 +1u 12)
D1 0 N003 UMZ22K
V2 N004 0 PWL(0 0 130m 0 +1u 3.3)
C3 0 N005 10n Rser=1K
R3 N006 N005 10
R4 IN N007 20m
M§Q2 N007 N006 OUT2 OUT2 IRF7413A
C4 OUT2 0 30µ
D2 0 N005 UMZ22K
XU1 IN N004 N004 0 N005 N003 N007 N001 LTC1647-2
Rload1 OUT1 0 8
Rload2 OUT2 0 6
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0.4
.lib LTC1647-2.sub
.backanno
.end
